US08835420B2
(S)-2-Amino-4-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
A mixture of (S)-2-chloro-4-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile (60 mg, 0.153 mmol) in dioxane (1 mL) and ammonium hydroxide (1 mL, 7.19 mmol) was heated at 100° C. in a microwave reactor for 1 hour. The reaction mixture was subsequently concentrated and purified by preparative HPLC (basic mode, 25% to 50% ACN/water gradient) to give the title compound as an off-white solid (14.2 mg, 24.9%). 1H NMR (500 MHz, CD3OD) δ ppm 1.41 (br s, 3 H), 3.59-3.74 (m, 3 H), 3.86-3.92 (m, 3 H), 5.16-5.36 (m, 1 H), 6.39-6.50 (m, 1 H), 6.63-6.73 (m, 1 H), 7.57-7.67 (m, 2 H), 7.77-7.88 (m, 1H), 8.04-8.13 (m, 1H); ESI-MS m/z [M+H]+ calc'd for C19H19N9, 374.18; found 374.3.

reactant | (S)-2-chloro-4-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 0.153 mmol, 60 mg | ClC1=NC=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C)C#N | C19H17ClN8
reactant | ammonium hydroxide | 7.19 mmol, 1 mL | [OH-].[NH4+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (S)-2-Amino-4-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 14.2 mg, 24.9% | NC1=NC=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C)C#N | C19H19N9
